US08802853B2
Tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (0.12 mg, 0.03 eq.), 2-iodopyrazine (0.90 g, 1.1 eq), triethylamine (1.21 g, 3 eq.), and copper (I) iodide (46 mg, 0.06 eq.) were added sequentially to a solution of 2-ethyl-1-(2-propynyl)-1H-imidazo[4,5-c]quinolin-4-amine (1 g, 4 mmol, 1.0 eq.) in DMF. The reaction mixture was stirred at ambient temperature overnight. The reaction mixture was concentrated under reduced pressure to provide crude product which was purified by column chromatography (silica gel eluting with 8/92 methanol/dichloromethane). The residue was purified by recrystallization from DMF to provide 100 mg of 2-ethyl-1-[3-(pyrazin-2-yl)-2-propynyl]-1H-imidazo[4,5-c]quinolin-4-amine hydroiodide as tan granules, mp 180-225° C. (dec). 1H NMR (300 MHz, DMSO-d6) δ 13.31 (s, 1H), 8.70 (br s, 2H), 8.68 (d, J=1.4 Hz, 1H), 8.61 (m, 2H), 8.48 (dd, J=8.2, 0.9 Hz, 1H), 7.85 (d, J=8.2 Hz, 1H), 7.73 (m, 1H), 7.62 (m, 1H), 5.93 (s, 2H), 3.14 (q, J=7.4 Hz, 2H), 1.43 (t, J=7.4 Hz, 3H); MS (APCI) m/z 329 (M+H)+; Anal. calcd. for C19H16N6.HI.0.06 DMF: C, 50.01; H, 3.81; N, 18.43. Found: C, 49.96; H, 3.84; N, 18.15.

reactant | 2-iodopyrazine | 0.90 g, 1.1 eq | IC1=NC=CN=C1 | C4H3IN2
reactant | triethylamine | 1.21 g, 3 eq. | C(C)N(CC)CC | C6H15N
reactant | 2-ethyl-1-(2-propynyl)-1H-imidazo[4,5-c]quinolin-4-amine | 4 mmol, 1 g, 1.0 eq. | C(C)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC#C | C15H14N4
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | Tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 0.12 mg, 0.03 eq. | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
catalyst | copper (I) iodide | 46 mg, 0.06 eq. | [Cu]I
product | 2-ethyl-1-[3-(pyrazin-2-yl)-2-propynyl]-1H-imidazo[4,5-c]quinolin-4-amine hydroiodide | 100 mg | I.C(C)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC#CC1=NC=CN=C1 | InChI=1S/C19H16N6.HI/c1-2-16-24-17-18(14-7-3-4-8-15(14)23-19(17)20)25(16)11-5-6-13-12-21-9-10-22-13;/h3-4,7-10,12H,2,11H2,1H3,(H2,20,23);1H
